US09290692B2
Then, 2-(3-hydroxyphenyl)pyridine is treated with tert-butyldimethylsilyl chloride (TBDMSCl) to protect the OH group with a tert-butyldimethylsilyl group and give 2-(3-tert-butyldimethylsilyloxyphenyl)pyridine according to scheme (3).

reactant | 2-(3-hydroxyphenyl)pyridine | OC=1C=C(C=CC1)C1=NC=CC=C1 | C11H9NO
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 2-(3-tert-butyldimethylsilyloxyphenyl)pyridine | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=NC=CC=C1 | C17H23NOSi
